US07109229B2
(b) 3-(1H-Indol-3-yl)-4-(1-ethyl-1H-indol-7-yl)-pyrrole-2,5-dione
A 1.0 M solution of KOtBu in THF (6 mL, 6 mmol) was added to a solution of 2-(1H-indol-3-yl)-acetamide (478 mg, 2.75 mmol) and (1-ethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (635 mg, 2.75 mmol) in DMF (20 mL). The deep red-orange solution was stirred 12 h at 50° C., allowed to cool, and 1N HCl added. The orange mixture was poured into EtOAc, and the EtOAc layer was separated and washed with 1N HCl, water, saturated NaHCO3 and brine, dried (MgSO4), filtered, and concentrated onto SiO2. Flash chromatography (1:1 EtOAc:hexanes) followed by precipitation from hot methanol afforded the title compound (377 mg, 37%) as a orange-red solid. Heating under vacuum at 70° C. afforded material which was used without further purification. 1H NMR (400 MHz, DMSO-d6) 11.83 (br s, 1H), 11.13 (s, 1H), 7.94 (d, J=3 Hz, 1H), 7.61 (dd, J=8, 1.5 Hz, 1H), 7.3 (m, 2H), 6.93–7.0 (m, 3H), 6.48 (m, 3H), 6.48 (m, 2H), 6.3 (d, J=7 Hz, 1H), 4.0 (m, 2H), 1.06 (t, J=5 Hz, 3H). MS (electrospray, m/z) 354 (M−−1).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 6 mmol, 6 mL | C1CCOC1 | C4H8O
reactant | 2-(1H-indol-3-yl)-acetamide | 2.75 mmol, 478 mg | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | (1-ethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 2.75 mmol, 635 mg | COC(C(=O)C=1C=CC=C2C=CN(C12)CC)=O | C13H13NO3
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(1H-Indol-3-yl)-4-(1-ethyl-1H-indol-7-yl)-pyrrole-2,5-dione | 377 mg, 37% | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)CC)=O)=O | C22H17N3O2
